US07572820B2
B. 2-Cyclopropyl-1-(cyclopropylmethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and (bromomethyl)cyclopropane: 1H NMR (400 MHz, CDCl3) δ 7.48 (s, 2H), 6.37 (d, J=1.7 Hz, 1H), 4.19 (d, J=6.6 Hz, 2H), 1.92 (m, 1H), 1.24 (m, 1H), 1.11 (m, 2H), 0.86 (m, 2H), 0.61 (m, 2H), 0.39 (m, 2H); MS (ES) m/z 305 (M+1).

reactant | 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H9F3N2
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 2-Cyclopropyl-1-(cyclopropylmethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)C=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1CC1 | C17H15F3N2
